Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
ICH
 
Major Surgical or Invasive Procedure:
___ Diagnostic cerebral angiogram
___ Diagnostic cerebral angiogram

 
History of Present Illness:
Ms. ___ is a ___ year old right-handed woman with no significant 
past medical history who last night around 8pm while she was at 
work began feeling dizzy and nauseous, and per a co-worker was 
"walking sideways" and almost fell.  She felt better when 
sitting down, but every time she stood back up her
symptoms would return.  She also had a severe headache.  She 
went to ___, and was discharged from the 
ED after a head CT was done.  This morning she felt worse and 
went back to the ED, where the original CT was re-read as having 
a posterior fossa hyperdensity along the left lateral aspect of 
the midbrain. A CTA was done that reportedly showed no stenosis 
or
occlusion.  She was transferred to ___ for further management. 


The patient states that since this morning she has felt numbness 
in her right arm and leg.  This morning her right face also felt 
numb, although this has since resolved.  She thinks her right 
leg is a little weaker as well.  She states she has been having 
headaches for the past 2 months that are at times severe and 
that she treats by taking ___ aspirin (600mg) at a time.  These 
occur in the evening and have been happening nearly daily 
according to
her boyfriend.  She has been trying to decrease her use of 
aspirin, and thinks she may have had ___ over this past week.  
She denies any visual symptoms, other paresthesias or weakness, 
tinnitus or hearing problems.  Last night she felt that sounds 
were abnormally distant sounding but this has since resolved. 
She hasn't been able to drink or eat over the past 2 days due to 
the nausea and vomiting.

 
Past Medical History:
hypertension during pregnancy
s/p biopsy of cervical lesion ___ - results were negative
s/p right elbow surgery for fracture

 
Social History:
___
Family History:
maternal grandfather - died of MI
maternal grandmother - died of breast cancer
father - history of severe MRSA infection
paternal side - two cousins with cancer, unknown type

 
Physical Exam:
On admission:
PHYSICAL EXAM:
T:99.1  BP: 133/77 HR:106   R 16       O2Sats 100% on RA
WD/WN, comfortable, NAD.
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, to
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch, propioception, bilaterally.

Reflexes: 2+ throughout

Toes downgoing bilaterally

Coordination: normal on finger-nose-finger, rapid alternating
movements

Handedness: Right

On discharge:
Neurologically intact
 
Pertinent Results:
___ Cerebral Angiogram
This diagnostic cerebral angiography confirmed the presence of a 
left superior cerebellar artery spontaneous dissection, which 
including its second (ambient segment) and first half of the 
second (quadrigeminal segment). This is the long dissection 
along the superior cerebellar artery and The length of 
dissection was measured about 2.5 cm, without focal aneurysmal 
formation. We will discuss with the patient regarding different 
treatment strategies. 

___ CTA head:
Ectasia of the perimesencephalic portion of left superior 
cerebellar artery without appreciable intraluminal filling 
defect, unchanged from recent cerebral angiogram.

CEREBRAL/RECHECK ___ 
This diagnostic cerebral angiography showed a stable size and 
appearance of previously known left superior cerebellar artery 
dissection.  No 
thromboembolic complication is noted in this diagnostic 
cerebellar 
angiography.  No other vascular abnormality was detected. ___ 
was consulted for dispo planning. 

___ MRI head w/ & w/o contrast
Partially thrombosed dissecting left superior cerebellar artery 
aneurysm which 
indents the adjacent midbrain-pontine junction, resulting in 
mass effect and a 
small amount of fluid signal seen within this region. 

 
Brief Hospital Course:
Ms. ___ was evaluated in the ER by Neurosurgery and admitted to 
the ICU with a left pontine ICH. She remained intact 
neurologically. On ___ she was taken to the Angio suite for a 
diagnostic cerebral angiogram which showed a left superior 
cerebellar artery dissection. Post-angio she was transferred to 
the ICU. She continued ASA 325mg. In the evening she had two 
episodes of SVT to the 180s which were likely related to 
anxiety. 

On ___ she remained stable and was awaiting furhter care 
planning. HEr BP goals remained less than 130 systolic and her 
neuro exam was stable

On ___ she underwent a CTA which showed stable left superior 
cerebellar artery. her blood pressure remained within the 
appropriate window and her neurologic exam was stable. 

On ___,  A physical and occupational therapy consultation was 
placed.  The patients foley catheter will discontinued.  
increased activity.  On exam the patient was neurologically 
intact.  

On ___, The patient was neurologically stable. 

On ___, the patient remained stable on neurologic examination. 
Her Ativan was changed from IV to PO for anxiety control.

On ___, the patient remained neurologically stable on 
examination.

On ___, the patient remained neurologically stable on 
examination. She was consented for an angiogram the following 
day. She was made NPO after midnigt.

On ___, the patient remained neurologically stable. She 
underwent a diagnostic angiogram which showed stable SCA 
dissection. 

On ___, patient was stable on exam. Blood pressure was 
liberalized and she was transferred to the floor. Neuro stroke 
was consulted for further management of SCA dissection. On ___ 
she remained stable and continued to c/o headache. 

On ___ she was seen and evaluated and deemed fit for discharge. 
Prior to discharge all treatment options were discussed with the 
patient including open clipping. Her case was discussed at 
length with Neurosurgical experts across the country and after 
weighing all risks and benefits of the options, conservative 
management was decided to be the best course of action. 
 
Medications on Admission:
ASA prn
 
Discharge Medications:
1. Acetaminophen-Caff-Butalbital ___ TAB PO Q4H:PRN headache 
RX *butalbital-acetaminophen-caff 50 mg-325 mg-40 mg ___ 
tablet(s) by mouth Every 6 hours as needed Disp #*75 Tablet 
Refills:*0
2. Aspirin 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*12
3. Bisacodyl 10 mg PO/PR DAILY Constipation 
RX *bisacodyl [Dulcolax (bisacodyl)] 5 mg 1 tablet(s) by mouth 
daily as needed Disp #*30 Tablet Refills:*0
4. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth Every 6 hours as 
needed Disp #*40 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left pontine ICH
Left superior cerebellar artery dissection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions

Surgery/ Procedures:
You had a diagnostic cerebral angiogram. You may experience 
some mild tenderness and bruising at the puncture site (groin).

Activity
We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
You make take a shower. 
No driving while taking any narcotic or sedating medication. 
If you experienced a seizure while admitted, you must refrain 
from driving. 

Medications
Resume your normal medications and begin new medications as 
directed.

You may be instructed by your doctor to take one 325mg Aspirin 
a day. Do not take any other products that have aspirin in them. 
If you are unsure of what products contain Aspirin, as your 
pharmacist or call our office. 

Please do NOT take any other blood thinning medication 
(Plavix, Coumadin) until cleared by the neurosurgeon. 

You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
Mild to moderate headaches that last several days to a few 
weeks.
Difficulty with short term memory. 
Fatigue is very normal
Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
Severe pain, swelling, redness or drainage from the incision 
site or puncture site. 
Fever greater than 101.5 degrees Fahrenheit
Constipation
Blood in your stool or urine
Nausea and/or vomiting
Extreme sleepiness and not being able to stay awake
Severe headaches not relieved by pain relievers
Seizures
Any new problems with your vision or ability to speak
Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
Sudden numbness or weakness in the face, arm, or leg
Sudden confusion or trouble speaking or understanding
Sudden trouble walking, dizziness, or loss of balance or 
coordination
Sudden severe headaches with no known reason

 
Followup Instructions:
___